US03959298
15.4 g. of Acetonine was dissolved in a mixed solvent comprising 169.8 g. of acetone and 56.6 g. of methanol. The solution was ice-cooled, added with 12.9 g. of dichloroacetic acid and 1.8 g. of water under stirring. The mixture was stirred at room temperature for 24 hours to effect the reaction. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, added with 40% aqueous potassium carbonate solution and extracted with ether. The extract was dried over anhydrous potassium carbonate, then ether was distilled off and the resulting residue was purified by distillation under reduced pressure to obtain triacetonamine in a yield of 136%.

reactant | Acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | acetone | CC(=O)C | C3H6O
reactant | methanol | CO | CH4O
reactant | dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | water | O | H2O
product | triacetonamine | yield of 136% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
